US07087626B2
3-{4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-propionic acid methyl ester
To a solution of 3-{4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-acrylic acid methyl ester (0.041 g, 0.1 mmol) in methanol (1 mL) is added 10% Pd/C (0.1 g). The resulting mixture is placed under one atmosphere of hydrogen and: stirred for 18 h. The mixture is filtered and concentrated in vacuo. The residue is chromatographed on SiO2 (2% methanol in dichloromethane) to yield the desired product as a pale yellow solid, 0.035 g (85%).

reactant | 3-{4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-acrylic acid methyl ester | 0.1 mmol, 0.041 g | COC(C=CC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2)=O | C25H22N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 3-{4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinolin-7-yl}-propionic acid methyl ester | COC(CCC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2)=O | C25H24N4O2
